US07354920B2
b) (S,R) 1-Morpholin-2-yl-1-phenyl-2-(2-trifluoromethoxy-phenyl)-ethanol hydrochloride
Alternatively, the following method may be used. In a glass-lined nitrogen purged hydrogenator are charged 1-(4-Benzyl-morpholin-2-yl)-1-phenyl-2-(2-trifluoromethoxy-phenyl)-ethanol hydrochloride (150 g, 303.7 mmol), demineralized water (352 mL), i-PrOH (375 mL) and 5% Pd/C (30 g, 50% water, Johnson & Matthey type 440). The heterogeneous reaction mixture was then purged 5 times with 25 psi nitrogen then purged 5 times with 50 psi hydrogen, and the hydrogenation was performed at RT. The initial Tmass was 22° C. and the maximum Tmass during the hydrogenation was 23° C. The reactor was stirred vigorously. In-process analysis after 2 hours indicated complete hydrogenolysis. The hydrogenation was stopped after 3 hours. The nitrogen purged reaction mixture was then filtered at RT through an hyflo filter (56 g), impregnated beforehand with 75 mL of a 50/50 v/v isopropanol/water mixture and washed with 300 mL of a 50/50 v/v isopropanol/water mixture. The filtrates were stored overnight at RT. The filtrates were concentrated at 40-50° C. under reduced pressure (typical 622 g distilled). The reaction mixture was cooled to RT and post-agitated. After 3 hours, 1 mL of the solution was taken and cooled to 0° C. to initiate crystallization. These seeds were added to the reaction mixture and precipitation was observed within a few minutes. The mixture was post-agitated at RT for 2 hours. The crystals were filtered and rinsed with H20 (30 mL). Then, the precipitate was dried under reduced pressure (400 mmHg) with a nitrogen flow (0.1 bar) for 4 hours affording the title compound as the hydrate polymorph (103.5 g, 81% yield).

reactant | 1-(4-Benzyl-morpholin-2-yl)-1-phenyl-2-(2-trifluoromethoxy-phenyl)-ethanol hydrochloride | 303.7 mmol, 150 g | Cl.C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1)OC(F)(F)F)(O)C1=CC=CC=C1
reactant | water | 352 mL | O | H2O
catalyst | Pd/C | 30 g | [Pd] | Pd
solvent | i-PrOH | 375 mL | CC(C)O | C3H8O
product | (S,R) 1-Morpholin-2-yl-1-phenyl-2-(2-trifluoromethoxy-phenyl)-ethanol hydrochloride | 81% yield | Cl.N1C[C@@H](OCC1)[C@@](CC1=C(C=CC=C1)OC(F)(F)F)(O)C1=CC=CC=C1 | InChI=1S/C19H20F3NO3.ClH/c20-19(21,22)26-16-9-5-4-6-14(16)12-18(24,15-7-2-1-3-8-15)17-13-23-10-11-25-17;/h1-9,17,23-24H,10-13H2;1H/t17-,18+;/m1./s1
